US09056859B2
A three-neck 5 L round bottomed flask equipped with a stir bar, firestone valve, thermocouple, condenser and heating mantle was charged with tri-t-butyl phosphonium tetrafluoroborate (500 mg, 1.72 mmol), palladium (II) acetate (250 mg, 1.1 mmol) and 5-bromo-2-benzofuran-1(3H)-one (100 g, 469 mmol). DMF (1.88 L) was added to the flask, and the mixture was degassed three times by alternating vacuum and nitrogen purge. Commercially available bromo(1,3-dioxolan-2-ylmethyl)zinc solution (1.033 L, 516 mmol) was added via canula and the mixture was again degassed three times. The mixture was then heated at 85° C. for 5 h. Analysis by HPLC-MS indicated the reaction was not complete. The mixture was stirred at 85° C. for 5 more h. The mixture was then allowed to return to room temperature for overnight. 2-methylTHF (2 L) and brine were added, and the mixture was stirred for 5 min. The layers were separated and the aqueous layer was extracted again with 2-methylTHF. The organic layers were combined, washed three times with brine (4 L each), dried over MgSO4, filtered, and concentrated. The crude product was purified by flash chromatography (1.5 kg silica cartridge), eluting with 0-20% ethyl acetate in dichloromethane to afford 5-(1,3-dioxolan-2-ylmethyl)-2-benzofuran-1(3H)-one, MS: m/z 221 (M+1)+.

reactant | tri-t-butyl phosphonium tetrafluoroborate | 1.72 mmol, 500 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | 5-bromo-2-benzofuran-1(3H)-one | 469 mmol, 100 g | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | bromo(1,3-dioxolan-2-ylmethyl)zinc | 516 mmol, 1.033 L | Br[Zn]CC1OCCO1
catalyst | palladium (II) acetate | 1.1 mmol, 250 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 1.88 L | CN(C)C=O | C3H7NO
product | 5-(1,3-dioxolan-2-ylmethyl)-2-benzofuran-1(3H)-one | O1C(OCC1)CC1=CC2=C(C(OC2)=O)C=C1 | C12H12O4
